US05610293
D. Synthesis of Gly-Ala-DAla-Gly-Gly.HCl
To Boc-Gly-Ala-DAla-Gly-Gly-OBzl prepared as in Example 33C (17.2 g, 33.0 mmol) in glacial acetic acid (480 ml) was added 6N HCl (120 ml) and the reaction mixture was stirred at room temperature for 24 h. Concentration in vacuo followed by coevaporation with water (2×250 ml) and toluene (2×250 ml) afforded 12.9 g (100% yield) of the product as a white powder: 1H NMR (D20) δ 1.36 (d, J=6.9 Hz, 3 H), 1.38 (d, J=7.2 Hz, 3 H), 3.84 (s, 2 H), 3.96 (s, 2 H), 3.99 (s, 2 H), 4.30-4.36 (m, 2 H).

reactant | Boc-Gly-Ala-DAla-Gly-Gly-OBzl | N(CC(=O)N[C@@H](C)C(=O)N[C@H](C)C(=O)NCC(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C24H35N5O8
reactant | HCl | 6N, 120 ml | Cl | ClH
solvent | acetic acid | 480 ml | C(C)(=O)O | C2H4O2
product | Gly-Ala-DAla-Gly-Gly.HCl | 12.9 g, 100% yield | NCC(=O)N[C@@H](C)C(=O)N[C@H](C)C(=O)NCC(=O)NCC(=O)O.Cl | InChI=1S/C12H21N5O6.ClH/c1-6(17-12(23)7(2)16-8(18)3-13)11(22)15-4-9(19)14-5-10(20)21;/h6-7H,3-5,13H2,1-2H3,(H,14,19)(H,15,22)(H,16,18)(H,17,23)(H,20,21);1H/t6-,7+;/m1./s1
